US07247645B2
1) Synthesis of 2,2-diphenylethyl acetoacetate:
500 mg (2.52 mmol) of 2,2-diphenylethanol was dissolved in 10 ml of toluene. 382 mg (3.78 mmol) of triethylamine was added to the obtained solution, and they were stirred at room temperature for 1 hour. 386 mg (3.03 mmol) of diketene was added to the obtained mixture under cooling with ice, and then they were stirred under heating at 100° C. for 2 hours. After the addition of saturated aqueous sodium hydrogencarbonate solution followed by the extraction with ethyl acetate, the organic layer was dried over anhydrous sodium sulfate and concentrated under reduced pressure to obtain the unpurified title compound.

reactant | 2,2-diphenylethanol | 2.52 mmol, 500 mg | C1(=CC=CC=C1)C(CO)C1=CC=CC=C1 | C14H14O
reactant | triethylamine | 3.78 mmol, 382 mg | C(C)N(CC)CC | C6H15N
reactant | diketene | 3.03 mmol, 386 mg | C=C1CC(=O)O1 | C4H4O2
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
solvent | toluene | 10 ml | C1(=CC=CC=C1)C | C7H8
product | 2,2-diphenylethyl acetoacetate | quantitative yield | C(CC(=O)C)(=O)OCC(C1=CC=CC=C1)C1=CC=CC=C1 | C18H18O3
